US07223788B2
N-Methyl-N-[1-(4-nitrophenyl)azetidin-3-yl]acetamide
N-[1-(4-nitrophenyl)azetidin-3-yl]acetamide was alkylated with iodomethane by method F. This resulted in the product with the molecular weight of 249.27 (C12H15N3O3); MS (ESI): 250 (M+H+).

reactant | N-[1-(4-nitrophenyl)azetidin-3-yl]acetamide | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)NC(C)=O | C11H13N3O3
reactant | iodomethane | IC | CH3I
product | N-Methyl-N-[1-(4-nitrophenyl)azetidin-3-yl]acetamide | CN(C(C)=O)C1CN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
